US05114960
0.079 g (0.25 mmol) of methyl cis-3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-methyl-4H-cyclohept[d]isoxazole-7-carboxylate in 10 ml of dioxane was stirred at room temperature for 1 hour with 5 ml of 1N aqueous sodium hydroxide solution. Water was added and the solution was partially evaporated. The solution was acidified with 1N hydrochloric acid and the precipitate was collected, washed with water and dried to give 0.065 g of cis-3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-methyl-4H-cyclohept[d]isoxazole-7-carboxylic acid of melting point 213° C.

reactant | methyl cis-3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-methyl-4H-cyclohept[d]isoxazole-7-carboxylate | 0.25 mmol, 0.079 g | ClC1=CC=C(C=C1)C1=NOC2=C1[C@@H](CC[C@@H](C2)C(=O)OC)C | C17H18ClNO3
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | cis-3-(4-chlorophenyl)-5,6,7,8-tetrahydro-4-methyl-4H-cyclohept[d]isoxazole-7-carboxylic acid | 0.065 g | ClC1=CC=C(C=C1)C1=NOC2=C1[C@@H](CC[C@@H](C2)C(=O)O)C | C16H16ClNO3
